US07342014B2
Benzyl 3-oxocyclobutanecarboxylate
Triethylamine (2.0 ml) and benzyl bromide (1.2 ml) were added to a solution of 3-oxocyclobutanecarboxylic acid (J. Org. Chem., Vol. 53, pp. 3841-3843, 1981) (995 mg) in tetrahydrofuran (5.0 ml), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was diluted with ethyl acetate, and washed successively with 1N hydrochloric acid, a saturated aqueous solution of sodium hydrogencarbonate and saturated saline and dried over anhydrous sodium sulfate. The solvent was then distilled off under reduced pressure, and the resultant residue was purified by column chromatography on silica gel (ethyl acetate:hexane=1:6) to obtain the title compound (886 mg).

reactant | Triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 1.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 3-oxocyclobutanecarboxylic acid | O=C1CC(C1)C(=O)O | C5H6O3
solvent | tetrahydrofuran | 5.0 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Benzyl 3-oxocyclobutanecarboxylate | 886 mg | O=C1CC(C1)C(=O)OCC1=CC=CC=C1 | C12H12O3
